US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 1-(5-bromo-2-fluorophenyl)pyrrolidin-2-one as described in Example 6 to give 1-{2-fluoro-5-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]phenyl}pyrrolidin-2-one as a pale yellow solid (114 mg, 31%): m/z (ES+) 372 [MH+].

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 1-(5-bromo-2-fluorophenyl)pyrrolidin-2-one | BrC=1C=CC(=C(C1)N1C(CCC1)=O)F | C10H9BrFNO
product | 1-{2-fluoro-5-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]phenyl}pyrrolidin-2-one | 114 mg, 31% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)N2C(CCC2)=O | C20H19F2N3O2
